US08071592B2
(a) 7-Fluoro-2-(methoxy)-1,5-naphthyridine
8-Bromo-7-fluoro-2-(methoxy)-1,5-naphthyridine (for a synthesis see WO2004058144, Example 53(g)) (5.040 g, 19.61 mmol) was stirred in MeOH (200 ml) with sodium hydrogen carbonate (3.29 g, 39.22 mmol) and 10% palladium on carbon (2.5 g), and the resulting suspension was hydrogenated at 1 atmosphere of hydrogen pressure under for 4 h. The mixture was filtered with suction through celite and the solids were washed with MeOH (500 ml). The combined filtrate plus washings were concentrated to about 50 ml under reduced pressure and then treated with water (200 ml) and DCM (300 ml). The aqueous phase was separated and extracted twice more with DCM (300 ml). The combined organic phases were separated, dried over anhydrous magnesium sulphate, filtered and evaporated to give the desired compound as an off-white solid (3.044 g, 87%).

reactant | 8-Bromo-7-fluoro-2-(methoxy)-1,5-naphthyridine | BrC=1C(=CN=C2C=CC(=NC12)OC)F | C9H6BrFN2O
reactant | sodium hydrogen carbonate | 39.22 mmol, 3.29 g | C(O)([O-])=O.[Na+]
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 200 ml | CO | CH4O
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | 7-Fluoro-2-(methoxy)-1,5-naphthyridine | 3.044 g, 87% | FC1=CN=C2C=CC(=NC2=C1)OC | C9H7FN2O
